* source ELETRONICA-IV-TRABALHO
.EXTERNAL OUTPUT +Vcc
.EXTERNAL OUTPUT -Vcc
.EXTERNAL OUTPUT Vin
.EXTERNAL OUTPUT Vout
Q_Q1         +VCC N00406 N000402 BC547B
Q_Q2         N00109 N00476 N000762 BC547B
R_R1         N00109 +VCC  2.550k TC=0,0 
R_R2         N00201 N000402  88.7 TC=0,0 
R_R3         N00201 N000762  88.7 TC=0,0 
R_R4         -VCC N00201  8.66k TC=0,0 
Q_Q3         N01055 N00476 N002452 BC557B
Q_Q4         -VCC N00406 N002632 BC557B
R_R5         N002632 N00357  88.7 TC=0,0 
R_R6         N002452 N00357  88.7 TC=0,0 
R_R7         N00357 +VCC  8.66k TC=0,0 
R_R8         -VCC N01055  2.550k TC=0,0 
Q_Q5         +VCC N00918 N004411 QTIP29 
Q_Q6         -VCC N01096 N004701 QTIP30 
Q_Q7         N00931 N00109 N007482 BC557B
R_R9         N007482 +VCC  1.820k TC=0,0 
Q_Q8         +VCC N00931 N00918 BC547B
Q_Q9         N01089 N01055 N010372 BC547B
Q_Q10         -VCC N01089 N01096 BC557B
R_R10         VOUT N004411  0.47 TC=0,0 
R_R11         N004701 VOUT  0.47 TC=0,0 
R_R12         N00476 0  47k TC=0,0 
C_C1         N00476 VIN  220nF  TC=0,0 
R_R13         N01432 N00931 {9.9k*0.5+.001}
Q_Q11         N00931 N01432 N01089 BC547B
R_R14         N01089 N01432  3.3k TC=0,0 
R_R15         N01096 N00918  1.4k TC=0,0 
R_R17         N016741 N00406  2.2k TC=0,0 
C_C2         0 N016741  10u  TC=0,0 
R_R18         0 VOUT  8 TC=0,0 
R_R19         -VCC N010372  1.820k TC=0,0 
R_R20         VOUT N00406 {46.2k*0.5+.001}
V_V5         0 -VCC 18v
V_V4         +VCC 0 18v
V_V6         VIN 0  AC 1
+SIN 0 1.1 1khz 0 0 0
